US05422358
Preparation of 3-(R)-(1-cyano-1,1-diphenylmethyl)-1-(2-phenoxyethyl)piperidine
A mixture containing 3-(R)-(1-cyano-1,1-diphenylmethyl)piperidine (0.3 g), 2-phenoxyethyl bromide (0.24 g--commercially available), anhydrous potassium carbonate (0.5 g) and acetonitrile (15 ml) was heated under reflux for 5 hours. The mixture was then partitioned between dichloromethane (30 ml) and 10% aqueous potassium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 2%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a gum, yield 0.254 g.

reactant | 3-(R)-(1-cyano-1,1-diphenylmethyl)piperidine | 0.3 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CNCCC1 | C19H20N2
reactant | 2-phenoxyethyl bromide | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-(R)-(1-cyano-1,1-diphenylmethyl)-1-(2-phenoxyethyl)piperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(CCC1)CCOC1=CC=CC=C1 | C27H28N2O
